US07432284B2
A solution of 1,6-dibromo-3a-butyl-7-hydroxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one (189 mg, 0.46 mmol) in anhydrous DMF (2.3 mL) was placed under a N2 atmosphere and stirred at room temperature while N,N-diisopropylethylamine (0.242 mL, 1.38 mmol) and chloromethyl methyl ether (0.070 mL, 0.92 mmol) were added successively. After stirring at room temperature for 16 hours, the mixture was diluted with EtOAc and washed with 1N HCl. The organic phase was washed with 5% NaHCO3 and brine, dried over MgSO4, filtered, and concentrated under vacuum to provide crude 1,6-dibromo-3a-butyl-7-(methoxymethoxy)-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one as an oil.

reactant | 1,6-dibromo-3a-butyl-7-hydroxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | 0.46 mmol, 189 mg | BrC=1C(CC2(C1C1=CC=C(C(=C1CC2)Br)O)CCCC)=O | C17H18Br2O2
reactant | N,N-diisopropylethylamine | 1.38 mmol, 0.242 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 0.92 mmol, 0.070 mL | COCCl | C2H5ClO
solvent | DMF | 2.3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1,6-dibromo-3a-butyl-7-(methoxymethoxy)-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | BrC=1C(CC2(C1C1=CC=C(C(=C1CC2)Br)OCOC)CCCC)=O | C19H22Br2O3
